US09062070B2
Step C: tert-butyl(3S)-3-(hydroxymethyl)-4-[2-hydroxy-2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate
5-(Oxiran-2-yl)-2-benzofuran-1(3H)-one (1.5 g, 8.5 mmol) and commercially available (S)-4-N-BOC-2-hydroxymethyl piperazine (2.394 g, 11.07 mmol) were combined in ethanol (10 mL) in a microwave tube. The mixture was degassed then heated for 60 min at 150° C. LC-MS showed the product peak. The reaction was worked up by adding ethyl acetate and washing once with brine. The organic layer was separated, dried, and concentrated to dryness. The crude product was purified by MPLC using an 80 g Redi-sep column and eluted with 50%-100% EtOAc/hexane yielding the title compound.

reactant | 5-(Oxiran-2-yl)-2-benzofuran-1(3H)-one | 8.5 mmol, 1.5 g | O1C(C1)C1=CC2=C(C(OC2)=O)C=C1 | C10H8O3
reactant | (S)-4-N-BOC-2-hydroxymethyl piperazine | 11.07 mmol, 2.394 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)CO | C10H20N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl(3S)-3-(hydroxymethyl)-4-[2-hydroxy-2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | OC[C@@H]1CN(CCN1CC(C1=CC2=C(C(OC2)=O)C=C1)O)C(=O)OC(C)(C)C | C20H28N2O6
